US08044052B2
Synthesis of 4-(3-(5-cyanopyridin-2-yloxy)benzylidene)-N-(pyridin-3-yl)piperidine-1-carboxamide
A solution of 2-(3-piperidin-4-ylidene-methyl-phenoxy)-5-cyanopyridine trifluoroacetate (0.280 g, 0.72 mmol) and phenyl pyridin-3-ylcarbamate (0.154 g, 0.72 mmol) in DMSO (2.0 mL) was treated with diisopropylethylamine (0.170 g, 1.6 mmol) and heated to 60° C. After 3 h, the reaction mixture was partitioned between water and ethyl acetate. The organic layer was separated and the aqueous layer was extracted again with ethyl acetate. The combined organic layers were washed with brine and dried over sodium sulfate, filtered and concentrated. The residue was purified by silica gel chromatography (5% of 1N NH3 in MeOH, in dichloromethane) to afford the title compound (155 mg, 52%) as white crystals after trituration in diethyl ether. MS (APCI 10V) AP+ 412.16; 1H NMR (400 MHz, DMSO-d6) δ ppm 2.34 (t, J=5.46 Hz, 2H) 2.45 (t, J=5.46 Hz, 2H) 3.46 (t, J=5.46 Hz, 2H) 3.54 (t, J=5.46 Hz, 2H) 6.39 (s, 1H) 7.02-7.04 (m, 2H) 7.12 (d, J=7.60 Hz, 1H) 7.21 (d, J=8.20, Hz, 1H) 7.25-7.27 (m, 1H) 7.39 (t, J=8.01 Hz, 1H) 7.83 (dd, J=5.28 Hz, 2.74 Hz, 2H) 8.10 (d, J=2.86 Hz, 1H) 8.25 (s, 1H) 8.30 (s, 1H) 8.8 (m, 1H) 8.75 (s, 1H).

reactant | 2-(3-piperidin-4-ylidene-methyl-phenoxy)-5-cyanopyridine trifluoroacetate | 0.72 mmol, 0.280 g | FC(C(=O)O)(F)F.N1CCC(CC1)=C1C(C(OC2=NC=C(C=C2)C#N)=CC=C1)C
reactant | phenyl pyridin-3-ylcarbamate | 0.72 mmol, 0.154 g | N1=CC(=CC=C1)NC(OC1=CC=CC=C1)=O | C12H10N2O2
reactant | diisopropylethylamine | 1.6 mmol, 0.170 g | C(C)(C)N(CC)C(C)C | C8H19N
solvent | DMSO | 2.0 mL | CS(=O)C | C2H6OS
product | 4-(3-(5-cyanopyridin-2-yloxy)benzylidene)-N-(pyridin-3-yl)piperidine-1-carboxamide | 155 mg, 52% | C(#N)C=1C=CC(=NC1)OC=1C=C(C=C2CCN(CC2)C(=O)NC=2C=NC=CC2)C=CC1 | C24H21N5O2
